US07476688B2
(Step 2) Methyl 3-(nitromethyl)hexanoate
Nitromethane (2.54 ml, 46 mmol) and 1,8-diazabicyclo[5.4.0]undec-7-ene (5.4 ml, 36 mmol) were added to a solution of methyl (E)-2-hexenoate (4.62 g, 36 mmol) in acetonitrile (20 ml) and the reaction mixture was stirred at room temperature for 14 hours. The reaction mixture was acidified by addition of a 1N HCl aqueous solution and then extracted with ethyl acetate. After washing the organic layer with brine and drying over anhydrous magnesium sulfate, the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (solvent: n-hexane-ethyl acetate) to yield the title compound (3.64 g) as a light yellow oil. 1H-NMR (CDCl3) δ(ppm) 0.92 (3H, t, J=0.8 Hz), 1.29-1.48 (4H, m), 2.45 (2H, d, J=6.4 Hz), 2.57-2.68 (1H, m), 3.69 (3H, s), 4.43 (1H, dd, J=14.0 Hz, 6.0 Hz), 4.50 (1H, dd, J=14.0, 6.8 Hz)

reactant | Nitromethane | 46 mmol, 2.54 ml | [N+](=O)([O-])C | CH3NO2
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 36 mmol, 5.4 ml | N12CCCCCC2=NCCC1 | C9H16N2
reactant | methyl (E)-2-hexenoate | 36 mmol, 4.62 g | C(\C=C\CCC)(=O)OC | C7H12O2
reactant | HCl | 1N | Cl | ClH
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | Methyl 3-(nitromethyl)hexanoate | 3.64 g | [N+](=O)([O-])CC(CC(=O)OC)CCC | C8H15NO4
